US06353025B1
To a stirred solution of 2-chloro-4-nitrophenethyl alcohol (1.17 g) in dichloromethane (15 ml) were added carbon tetrabromide (2.12 g) and triphenylphosphine (1.67 g) at room temperature, and the mixture was stirred for 15 minutes. The solvent was removed in vacuo, and purification of the residue by flash column chromatography on silica gel (eluent: hexane/ethyl acetate=9/1) gave 1-(2-bromo-ethyl)-2-chloro-4-nitrobenzene (1.30 g).

reactant | 2-chloro-4-nitrophenethyl alcohol | 1.17 g | ClC1=C(CCO)C=CC(=C1)[N+](=O)[O-] | C8H8ClNO3
reactant | carbon tetrabromide | 2.12 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 1.67 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 1-(2-bromo-ethyl)-2-chloro-4-nitrobenzene | 1.30 g | BrCCC1=C(C=C(C=C1)[N+](=O)[O-])Cl | C8H7BrClNO2
